US05028604
0.57 g of sodium boron hydride was added with stirring to 9 ml of a 80% methanol solution under ice-cooling. To the mixture was added dropwise 1.15 g of 1-[1-(2-indanylacetyl)-L-prolyl]-L-proline methyl ester dissolved in a mixed solution of 5 ml of tetrahydrofuran and 5 ml of methanol. After addition, the mixture was stirred for 15 hours at room temperature. The reaction mixture was acidified by adding diluted hydrochloric acid and extracted with ether. The organic layer obtained was washed with brine and dried over anhydrous sodium sulfate. After evaporating the solvent under reduced pressure, the residue was purified by silica gel column chromatography to obtain 0.73 g of 1-[1-(2-indanylacetyl)-L-prolyl]-L-prolinol as an oily substance. (yield: 68%)

reactant | sodium boron hydride | 0.57 g | B.[Na]
reactant | 1-[1-(2-indanylacetyl)-L-prolyl]-L-proline methyl ester | 1.15 g | COC([C@H]1N(CCC1)C([C@H]1N(CCC1)C(CC1CCC2=CC=CC=C12)=O)=O)=O | C22H28N2O4
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | methanol | 5 ml | CO | CH4O
product | 1-[1-(2-indanylacetyl)-L-prolyl]-L-prolinol | 0.73 g, yield: 68% | C1(CCC2=CC=CC=C12)CC(=O)N1[C@H](C(=O)N2[C@H](CO)CCC2)CCC1 | C21H28N2O3
